US07141669B2
Preparation of Intermediate 4-Amino-1-(2-chlorophenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic acid morpholin-4-ylamide (I-10A-1a)
Trimethylaluminum (2M solution in toluene, 625 microliters, 1.25 mmol) is added to a solution of 4-aminomorpholine (121 microliters, 1.25 mmol) in CHCl3 (3 ml) at room temperature. The reaction mixture was stirred for 1 h, then 4-amino-1-(2-chlorophenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic acid ethyl ester (I-2A-1a, 188 mg, 0.5 mmol) was added in one portion. The reaction mixture was stirred at 45° C. for 4h, cooled to room temperature, and quenched with 1 M HCl (1 ml) (CAREFUL: gas evolution). The pH of the solution was adjusted to ˜13 using 25% KOH, at which point all solids went into solution. The aqueous solution was extracted with EtOAc (2×) and the combined organic solution was washed with saturated aqueous brine, dried, and concentrated under vacuum to give the product I-10A-1a as an amorphous solid (208 mg): MS 432.0 (M+1)+; 1H NMR (400 MHz, CDCl3) δ 7.44–7.32 (m, 4H), 7.28–7.23 (m, 2H), 7.13–7.09 (m, 2H), 3.86 (m, 4H), 2.95 (m, 4H).

reactant | Trimethylaluminum | 1.25 mmol, 2M, 625 microliters | C[Al](C)C
reactant | 4-aminomorpholine | 1.25 mmol, 121 microliters | NN1CCOCC1 | C4H10N2O
reactant | 4-amino-1-(2-chlorophenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic acid ethyl ester | 0.5 mmol, 188 mg | C(C)OC(=O)C1=NN(C(=C1N)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C18H15Cl2N3O2
solvent | CHCl3 | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Amino-1-(2-chlorophenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic acid morpholin-4-ylamide | N1(CCOCC1)NC(=O)C1=NN(C(=C1N)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C20H19Cl2N5O2
